US04067903
3-Hydroxy-2'-methyldiphenylamine
250 parts of resorcinol, 300 parts of o-toluidine and 10 parts of tributyl phosphite are mixed. On heating to 120° C, a melt is formed. When the internal temperature has reached 190° C, the elimination of water commences. The internal temperature is raised to 230° C in the course of 5 hours. After this time, 41 parts of water have distilled off and the reaction has ended. Excess o-toluidine and resorcinol which may still be present are removed by applying reduced pressure, and the 3-hydroxy-2'-methyl-diphenylamine is then distilled, passing over at 185° C/3 mm Hg. 420 parts of end product of ND25 = 1.6455 are obtained, corresponding to a yield of 93% of theory.

reactant | resorcinol | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | o-toluidine | NC=1C(=CC=CC1)C | C7H9N
reactant | tributyl phosphite | P(OCCCC)(OCCCC)OCCCC | C12H27O3P
solvent | water | O | H2O
product | 3-Hydroxy-2'-methyldiphenylamine | yield of 93% | CC1=CC=CC=C1NC2=CC(=CC=C2)O | C13H13NO
